US05354782
Step c: 1-[(3,5-Di-t-butyl-4-hydroxyphenyl)]-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane
Dissolve 1-[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5-diazapentane (1.39 g, 5 mmol) in 50/50 dioxane/water (25 mL) and buffer to pH 10 with 1N sodium hydroxide. Add, by dropwise addition, an ether solution of di-t-butyl dicarbonate (2.4 g, 11 mmol) at 10° C. Allow to warm to room temperature and buffer occasionally to retain pH 10. Acidify with a sodium citrate/citric acid buffer to pH 5, extract with ether (3X), dry (MgSO4) and evaporate the solvent in vacuo. Purify the residue by silica gel chromatography to give the title compound.

reactant | 1-[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5-diazapentane | 5 mmol, 1.39 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NCCCN | C17H30N2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 11 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium citrate citric acid | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+].C(CC(O)(C(=O)O)CC(=O)O)(=O)O
solvent | dioxane water | 25 mL | O1CCOCC1.O
solvent | ether | CCOCC | C4H10O
product | 1-[(3,5-Di-t-butyl-4-hydroxyphenyl)]-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H46N2O5
